US08114893B2
Step 13: Preparation of N-(benzo[d]thiazol-2-yl)-1H-imidazole-1-carboxamide (1M)
To CDI (1.6 g, 10 mmol) in acetonitrile (30 mL) was slowly added 2-aminobenzothiazole (1.0 g, 6.6 mmol) and allowed to stir at rt for 48 hours. The reaction mixture was filtered, washed with acetonitrile, and dried to provide 1.44 g (88%) of the desired product N-(benzo[d]thiazol-2-yl)-1H-imidazole-1-carboxamide (1M): LC/MS (APCI): m/z 245.1 (M+H).

reactant | CDI | 10 mmol, 1.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-aminobenzothiazole | 6.6 mmol, 1.0 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(benzo[d]thiazol-2-yl)-1H-imidazole-1-carboxamide | 1.44 g, 88% | S1C(=NC2=C1C=CC=C2)NC(=O)N2C=NC=C2 | C11H8N4OS
